US08791132B2
A mixture of 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (300 mg, 1.33 mmol), 1H-imidazole (182 mg, 2.66 mmol), TBAF.3H2O (1.2 g, 3.80 mmol) and dichloro bis(triphenylphosphine) palladium (II) (47 mg, 0.06 mmol) was heated at 85° C. for 30 min. The reaction mixture was cooled to RT, diluted with water and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×25 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (100-200 mesh) eluting with 4% MeOH-DCM to yield 90 mg of 5-(1-imidazol-1-yl-vinyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. The free base was converted into the di-HCl salt by treatment with ethanolic HCl. 1H NMR (CD3OD, D1-HCl salt) δ (ppm): 9.21 (s, 1H), 7.78 (d, 2H), 7.38 (s, 1H), 7.1 (d, 1H), 6.92 (d, 1H), 6.21 (d, 1H), 5.75 (d, 1H), 4.7 (d, 1H), 4.4 (d, 1H), 3.83 (m, 1H), 3.6 (m, 1H), 3.18 (m, 5H), 2.4 (s, 3H).

reactant | 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.33 mmol, 300 mg | C(#C)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C15H16N2
reactant | 1H-imidazole | 2.66 mmol, 182 mg | N1C=NC=C1 | C3H4N2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | water | O | H2O
product | 5-(1-imidazol-1-yl-vinyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 90 mg | N1(C=NC=C1)C(=C)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H20N4
